US05731254
A solution of 67.8 mmol of lithiumfluorene in 50 cm3 of tetrahydrofuran is added to a solution of 11.4 g (67.8 mmol) of 6-methyl-6-phenyl-fulvene in 40 cm3 of tetrahydrofuran at room temperature. After the mixture had been stirred at room temperature for 2 hours, 60 cm3 of water were added. The substance which precipitated during this procedure was filtered off with suction, washed with diethyl ether and dried under an oil pump vacuum. 19.1 g (84.2%) of 2,2-cyclopentadienyl(9-fluorenyl)-ethylbenzene were obtained (correct elemental analyses; 1H-NMR spectra).

reactant | lithiumfluorene | 67.8 mmol | C1=CC=CC=2C3=CC=CC=C3CC12.[Li]
reactant | 6-methyl-6-phenyl-fulvene | 67.8 mmol, 11.4 g | CC(=C1C=CC=C1)C1=CC=CC=C1 | C13H12
reactant | water | 60 cm3 | O | H2O
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | 2,2-cyclopentadienyl(9-fluorenyl)-ethylbenzene | 19.1 g, 84.2% | C1(C=CCC1)C=1C(=C(C=CC1)CC)C1C2=CC=CC=C2C=2C=CC=CC12 | C26H24
